US06399601B1
2-Bromo-6H-thieno[2,3-b]pyrrole-5-carboxylic Acid [(1S)-Benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-amide
2-Bromo-6H-thieno[2,3-b]pyrrole-5-carboxylic acid and (2S)-amino-1-(3-hydroxy-azetidin-1-yl)-3-phenyl-propan-1-one hydrochloride were coupled according to Procedure B.

reactant | 2-Bromo-6H-thieno[2,3-b]pyrrole-5-carboxylic acid | BrC1=CC2=C(NC(=C2)C(=O)O)S1 | C7H4BrNO2S
reactant | (2S)-amino-1-(3-hydroxy-azetidin-1-yl)-3-phenyl-propan-1-one hydrochloride | Cl.N[C@H](C(=O)N1CC(C1)O)CC1=CC=CC=C1
product | 2-Bromo-6H-thieno[2,3-b]pyrrole-5-carboxylic Acid [(1S)-Benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-amide | C(C1=CC=CC=C1)[C@@H](C(=O)N1CC(C1)O)NC(=O)C1=CC2=C(N1)SC(=C2)Br | C19H18BrN3O3S
